US05716944
To a solution of ethyl 3-(4-cyclohexylbenzoyl)propionate (19.6 g) in methanol (150 ml), 2N KOH (102 ml) was added, followed by stirring at room temperature for 1.5 hours. The reaction mixture was poured into water (200 ml), acidified with concentrated hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), after which the solvent was evaporated off, to yield 3-(4-cyclohexylbenzoyl)propionic acid (10.8 g, 61%), which was then recrystallized from isopropyl ether to yield colorless prisms having a melting point of 140°-141° C.

reactant | ethyl 3-(4-cyclohexylbenzoyl)propionate | 19.6 g | C1(CCCCC1)C1=CC=C(C(=O)CCC(=O)OCC)C=C1 | C18H24O3
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | KOH | 2N, 102 ml | [OH-].[K+]
product | 3-(4-cyclohexylbenzoyl)propionic acid | 10.8 g, 61% | C1(CCCCC1)C1=CC=C(C(=O)CCC(=O)O)C=C1 | C16H20O3
